US05474998
Step D 2-Hydroxy-4-(trifluoromethyl)benzaldehyde
A mixture of 10.0 g (0.042 mol) 2-methoxy-4-(trifluoromethyl)benzaldehyde, 5.3 g (0.126 mol) lithium chloride, and 50 mL of dimethylformamide was heated at 155° C. for 3 hours. The reaction mass was cooled, diluted with 100 mL of water, acidified with hydrochloric acid, and then extracted three times with 100 mL of ether. The ether extracts were washed with water, dried over anhydrous magnesium sulfate, and evaporated to provide 6.8 g of the product as an oil.

reactant | 2-methoxy-4-(trifluoromethyl)benzaldehyde | 0.042 mol, 10.0 g | COC1=C(C=O)C=CC(=C1)C(F)(F)F | C9H7F3O2
reactant | lithium chloride | 0.126 mol, 5.3 g | [Cl-].[Li+]
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-Hydroxy-4-(trifluoromethyl)benzaldehyde | 6.8 g | OC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H5F3O2
